US07919519B2
To a yellow solution of 5-benzylpyridin-2-ol (1.10 g, 5.94 mmol) in 22 mL AcOH under Ar was added 1.5 mL TFA, followed by N-iodosuccinimide (1.34 g, 5.94 mmol). The red homogeneous solution was allowed to stir overnight, poured onto ice and neutralized with conc. NH4OH. The solids were collected by filtration, rinsed with water, treated with MeOH/DCM, dried over sodium sulfate, and evaporated. The resulting brown solid was purified by silica gel chromatography (ISCO, 80 g, 0-70% 90/10 DCM/MeOH in DCM) to give 5-benzyl-3-iodopyridin-2-ol as a yellow/brown solid. MS (ESI) m/z: Calculated: 311.0; Observed: 311.9 (M++1).

reactant | 5-benzylpyridin-2-ol | 5.94 mmol, 1.10 g | C(C1=CC=CC=C1)C=1C=CC(=NC1)O | C12H11NO
reactant | TFA | 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | N-iodosuccinimide | 5.94 mmol, 1.34 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | NH4OH | [NH4+].[OH-]
solvent | AcOH | 22 mL | CC(=O)O | C2H4O2
product | 5-benzyl-3-iodopyridin-2-ol | C(C1=CC=CC=C1)C=1C=C(C(=NC1)O)I | C12H10INO
